US05872283
80 g of 80% strength by weight 2,3,5,6-tetrafluoroterephthalic acid (containing 8% by weight of sulfuric acid and 12% by weight of water) were mixed with 300 g of water in a 0.6 l enamelled autoclave and heated for 40 hours at 130° C. After cooling to 20° C. and depressurizing, the suspension then present was filtered, washed with 60 g of water and the white solid was dried. 42 g of 2,3,5,6-tetrafluorobenzoic acid having a content of 98% by weight and a melting point of 151° C. were obtained.

reactant | 2,3,5,6-tetrafluoroterephthalic acid | FC1=C(C(=O)O)C(=C(C(=C1F)C(=O)O)F)F | C8H2F4O4
solvent | water | 300 g | O | H2O
product | 2,3,5,6-tetrafluorobenzoic acid | 42 g | FC1=C(C(=O)O)C(=C(C=C1F)F)F | C7H2F4O2
